US07960402B2
(1) Production of ethyl 2′-methyl-3′-oxo-2′,3′-dihydro-spiro-[cyclohex-3-ene-1,1′-isoindole]-4-carboxylate
A 40% methanolic solution (20.0 mL) of methylamine was added to a solution of ethyl 4-oxocyclohexanecarboxylate (10.0 g) in diethyl ether (100 mL) and stirred at room temperature for 5.5 hours. Drylite (10.0 g) was added thereto followed by stirring at room temperature for 18 hours. After it was filtered, the filtrate was concentrated. The resulting residue was dissolved in toluene (100 mL), then triethylamine (8.20 mL) and 2-iodobenzoyl chloride (10.97 g) were added thereto and the mixture was stirred for 2 days at 80° C. in a nitrogen atmosphere. A saturated sodium bicarbonate solution was added to the reaction solution and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated saline solution, dried over sodium sulfate, filtered and concentrated in vacuo. It was purified by a silica gel column chromatography (hexane/ethyl acetate=9/1→3/1). The resulting residue was dissolved in acetonitrile (200 mL), then potassium carbonate (10.70 g), tetraethylammonium chloride (6.42 g), triphenylphosphine (2.03 g) and palladium acetate (869 mg) were added thereto and the mixture was stirred for 17 hours at 80° C. in a nitrogen atmosphere. Water was added to the reaction solution and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated saline solution, dried over sodium sulfate, filtered and concentrated in vacuo. It was purified by a silica gel column chromatography (hexane/ethyl acetate=3/1→3/2). The resulting solid was suspended in diisopropyl ether and filtered to give the aimed compound (7.36 g, 44%) as a light yellow solid.

reactant | methylamine | CN | CH5N
reactant | ethyl 4-oxocyclohexanecarboxylate | 10.0 g | O=C1CCC(CC1)C(=O)OCC | C9H14O3
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | ethyl 2′-methyl-3′-oxo-2′,3′-dihydro-spiro-[cyclohex-3-ene-1,1′-isoindole]-4-carboxylate | 7.36 g, 44% | CN1C2(C3=CC=CC=C3C1=O)CC=C(CC2)C(=O)OCC | C17H19NO3
